US07411073B2
2,4-Dichlorophenethyl alcohol (10 g, 52.0 mmol) was dissolved in 100 mL of methylene chloride, cooled to 0° C. under nitrogen atmosphere and 1.5 equiv of phosphorous tribromide (1M in CH2Cl2, 80 mmol, 80 mL) was added dropwise. The resulting reaction mixture was warmed to 23° C. and stirred for 2 h before the very slow addition of 200 mL of saturated aqueous sodium bicarbonate and extraction with methylene chloride (2×150 mL). The combined organic layers were dried over sodium sulfate and evaporated under reduced pressure. The crude product was purified by a SiO2 plug (5% EtOAc/hexanes) to yield 2,4-dichlorophenethyl bromide. The product was characterized by 1H NMR and HPLC.

reactant | 2,4-Dichlorophenethyl alcohol | 52.0 mmol, 10 g | ClC1=C(CCO)C=CC(=C1)Cl | C8H8Cl2O
reactant | phosphorous tribromide | 80 mmol, 1M, 80 mL, 1.5 equiv | P(Br)(Br)Br | Br3P
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 2,4-dichlorophenethyl bromide | ClC1=C(CCBr)C=CC(=C1)Cl | C8H7BrCl2
